Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admission for hematopoietic stem cell transplantation 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old man with no significant past medical history until 
he presented late ___ with night sweats, fevers, shortness of 
breath and found to have FLT3, IDH2 mutated AML with 7+3 with 
midostaurin followed by 5+2 with midostaurin. He was discharged 
on ___ and is presenting today for allogenic stem cell 
transplant. 
 
He did very well at home. Did a lot of exercise on a stairmaster 
and on a bike and actually got quite a bit stronger. He's been 
having some nightsweats since discharge, though they've been 
getting better. Endorses dry cough when lying flat, though not 
for the past couple of days. Also sees spots of blood on toilet 
paper once a day that he thinks is related to hemorrhoid. No 
headaches, changes in vision, dizziness, painful swallowing, 
chest pain, palpitations, shortness of breath, constipation, 
diarrhea, nausea, dysuria, hematuria, rash, weakness, numbess, 
petechiae, anorexia. 
 
Past Medical History:
======================
PAST ONCOLOGIC HISTORY
====================== 
- ___: Drenching nightsweats nightly
- ___: Presented to PCP with fever, cough, profound 
fatigue, diffuse arthralgia, shortness of breath and neutropenia 
found to have significant blasts
 
___ Hospital Admission and Diagnosis
- ___: Admission to ___ for further evaluation.  
Infectious workup for persistent fevers (102-103) and cough with 
RLL infiltrate on imaging in the setting of neutropenia treated 
empirically with vancomycin, cefepime, and posaconazole.
- ___: RAPID HEME- DNMT3A R882H; IDH2 R140Q; and FLT3 ___ 
MUTATED
- ___: Bone marrow biopsy #1 (see details below)
- ___: Developed hyponatremia and SIADH which improved with 
fluid restriction
- ___: CXR with progressive RLL infiltrate consistent with 
progressive PNA and fever of 102-103 with worsening O2 
requirement (___) possibly fungal or leukemic infiltration with 
transaminitis and RUQUS with "starry sky" appearance consistent 
with acute hepatitis thought to be medication related or 
possible leukemia infiltration
- ___: Bronchoscopy negative for PMNs, leukocytes, 
microorganisms, acid fast smear, culture, acid fast culture, 
fungal culture, fungal elements, PCP, nocardia 
- ___: Afib with RVR following bronchoscopy with rates to 
170 treated with diltiazem
- ___: Worsening hypoxia on O2 improved with diuresis and 
hallucinations thought to be medication induced
- ___: Cough/URI symptoms which later improved
- ___:  Worsened headache ___ with concern for possible 
fungal infection of sinuses given pain in the setting of 
appropriate treatment (meropenem), CT Sinus ___ demonstrated 
unchanged mild mucosal thickening of the right maxillary sinus 
and ethmoid air cells and posaconazole was restarted
- ___: Increased dizziness, fatigue.  8.0 to 6.4 despite 1 
unit pRBC with some improvement in symptoms with increased 
dyspnea and blood streaked sputum and stool noted to be 
increased in volume, dark in color, guaiac positive with CT AP 
negative for acute process
- ___: Bone Marrow Biopsy #2 (details below) 
- ___: Developed pharyngitis with fever in the setting of 
neutropenia treated empirically with Meropenem and Vancomycin 
and posaconazole was later added given persistent fevers 
- ___: Bone Marrow Biopsy #3 (details below)
- ___: Meropenem d/c'd for acute LFT elevation which later 
resolved and started PO Cipro instead with cultures negative
- ___: developed volume overload with 10 lbs weight gain, ___ 
edema, and bibasilar crackles treated with diuresis
- ___: Sputum culture from ___ positive for fusarium. 
Unsuccessful attempted induced sputum, on posaconazole
- ___: Febrile neutropenia (up to 103.1) treated with 
empiric antiobiotics-cefepime and vancomycin with concern for 
cellulitis around CVL as source and broadened to meropenem with 
new papules on L thigh concerning for fungal infection although 
bx demonstrated with non specific inflammatory findings and CT 
torso with evidence of bilateral pneumonia. RVP returned 
coronavirus positive.
- ___: 2 episodes of melena with PMH of GERD and suspected 
PUD/gastritis in setting of critical illness which later 
resolved.
- ___: EGD-Schatzki's ring.  Otherwise normal EGD to third 
part of the duodenum
 
Social History:
___
Family History:
His father died of metastatic melanoma at age ___ in ___.  His 
paternal uncle (in his ___ and cousin (in his ___ had liver 
cancer-no history of alcoholism or hepatitis.         
 
Physical Exam:
ADMISSION EXAM
======================
Gen: Well appearing man speaking to me in no distress, 
accompanies by two of his children and his wife
___ equal and reactive, no scleral icterus or 
injection, no oropharyngeal lesions or thrush, lipoma on back of 
head, good dentition, moist mucous membranes
CV: S1/S2 regular with no murmurs, rubs or S3/S4 
LUNGS: Clear to auscultation bilaterally
ABD: Soft, non-tender, non-distended
EXT: No lower extremity swelling. Normal pedal pulses. Warm 
extremities. 
SKIN: No petichiae or rash. Lipoma on back and on occiput. 
Healing former biopsy sites on L leg. 
NEURO: CNII-XII normal. Grossly normal strength. 
LINES: R chest tunneled line 
 
DISCHARGE EXAM
======================
VITALS: Temp: 97.7 PO BP: 136/88 HR: 88 RR: 18 O2 sat: 98% O2 
delivery: RA 
GENERAL: Well appearing man in no acute distress. Comfortable.
NEURO: AAOx3. Moving all four extremities with purpose.
___: EOMI. MMM. Mucositis improved. 
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs, 
or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing 
comfortably on room air.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused, non-edematous. 
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS
======================
___ 08:25AM   ___ PTT-30.4 ___
___ 08:25AM   NEUTS-51.1 ___ MONOS-9.7 EOS-1.4 
BASOS-0.5 AbsNeut-1.11* AbsLymp-0.81* AbsMono-0.21 AbsEos-0.03* 
AbsBaso-0.01
___ 08:25AM   WBC-2.2* RBC-3.66* HGB-12.2* HCT-37.4* 
MCV-102* MCH-33.3* MCHC-32.6 RDW-UNABLE TO  RDWSD-UNABLE TO 
___ 08:25AM   TOT PROT-6.7 ALBUMIN-4.5 GLOBULIN-2.2 
CALCIUM-9.4 PHOSPHATE-4.1 MAGNESIUM-2.1 URIC ACID-5.2
___ 08:25AM   ALT(SGPT)-31 AST(SGOT)-22 LD(LDH)-178 ALK 
PHOS-66 TOT BILI-0.5 DIR BILI-<0.2 INDIR BIL-0.5
___ 08:25AM   GLUCOSE-106* UREA N-13 CREAT-0.8 SODIUM-143 
POTASSIUM-4.9 CHLORIDE-105 TOTAL CO2-30 ANION GAP-8*
___ 12:00AM   GLUCOSE-83 UREA N-15 CREAT-1.1 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 12:00AM   ALT(SGPT)-27 AST(SGOT)-23 LD(LDH)-172 ALK 
PHOS-59 TOT BILI-0.3
___ 12:00AM   ALBUMIN-3.9 CALCIUM-8.8 PHOSPHATE-5.5* 
MAGNESIUM-2.0
___ 12:00AM   WBC-2.7* RBC-3.30* HGB-11.1* HCT-33.7* 
MCV-102* MCH-33.6* MCHC-32.0 RDW-UNABLE TO  RDWSD-UNABLE TO 
___ 12:00AM   NEUTS-39.0 ___ MONOS-8.8 EOS-1.8 
BASOS-0.4 AbsNeut-1.06* AbsLymp-1.36 AbsMono-0.24 AbsEos-0.05 
AbsBaso-0.01
 
PERTINENT STUDIES
======================
KUB (___)
No evidence of bowel obstruction.
 
CXR (___)
Stable to mild interval improvement in right lower lung 
atelectasis.
 
MICRO
======================
___ 12:16 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
 
___ 8:20 am Stem Cell - Blood Culture     Site: STEM CELLS
      UNMANIPULATED, ___. 

                            **FINAL REPORT ___

   Stem Cell ___ Culture (Final ___:    NO GROWTH. 
 
DISCHARGE LABS
======================
___ 12:08AM BLOOD WBC-4.5 RBC-2.83* Hgb-9.5* Hct-28.7* 
MCV-101* MCH-33.6* MCHC-33.1 RDW-17.3* RDWSD-63.5* Plt ___
___ 12:08AM BLOOD Neuts-61 Bands-0 Lymphs-14* Monos-23* 
Eos-0 Baso-2* ___ Myelos-0 AbsNeut-2.75 
AbsLymp-0.63* AbsMono-1.04* AbsEos-0.00* AbsBaso-0.09*
___ 12:08AM BLOOD ___ PTT-30.1 ___
___ 12:08AM BLOOD Glucose-101* UreaN-12 Creat-0.6 Na-140 
K-4.2 Cl-101 HCO3-27 AnGap-12
___ 12:08AM BLOOD ALT-13 AST-13 LD(LDH)-196 AlkPhos-84 
TotBili-<0.2
___ 12:08AM BLOOD Calcium-9.0 Phos-5.0* Mg-1.6
___ 12:08AM BLOOD tacroFK-5.7
___ 12:25PM BLOOD CMV VL-NOT DETECT
 
Brief Hospital Course:
___ man with PMHx notable for DNMT3A, IDH2, FLT3 mutated 
AML currently in remission admitted for planned myeloablative 
minimal residual disease allogeneic stem cell transplantation. 
Underwent myeloablative therapy with subsequent transplant stem 
cell infusion on ___, now s/p engraftment and doing well. 
Course complicated by neutropenic fever without clear source, 
now off antibiotics. 
 
# AML S/P MRD STEM CELL TRANSPLANT
Presented for planned matched related donor peripheral stem cell 
transplant. History of DNMT3A, IDH2, AND FLT3 mutated AML, 
currently in remission. Received fludarabine and busulfan 
condition ___ to ___. Uncomplicated hematopoietic stem cell 
infusion ___ with subsequent engraftment. Course notable for 
febrile neutropenia, diarrhea, and discovery of pulmonary 
infiltrates, discussed below. At time of discharge was feeling 
well with adequate PO intake. Prophylactic regimen at discharge 
included acyclovir, Bactrim, and fluconazole. Tacrolimus at 2 mg 
qAM and 2 mg qPM with plan for repeat level on ___ AM at time 
of follow up.
 
# NEUTROPENIC FEVER
Developed neutropenic fever with Tmax 100.5. No obvious source; 
possibly mucositis given ongoing sore throat. Completed course 
of vancomycin / meropenem ___ - ___ with discontinuation 
following normaliazation of ANC. No subsequent infectious signs 
or symptoms.
 
# DIARRHEA / HEMMORHOIDS 
Early hospital course notable for watery diarrhea with negative 
C. diff. Also with episode of BRBPR likely related to 
hemorrhoid. In setting of recent normal EGD on ___. 
Symptoms improved with rectal hydrocortisone. Continued on 
omeprazole. Repeat episode of abdominal cramping / single loose 
stool with repeat negative C. diff.
 
# PULMONARY INFILTRATES
CT chest from ___ with pulmonary infiltrates, reviewed with 
pulmonology and infectious disease. Most likely due to resolving 
prior infection from microaspirations related to GERD. 
Determined that bronchoscopy could be deferred. 
 
TRANSTIONAL ISSUES
=================================
- Discharge weight: 82.74 kg
 
[ ] Please ensure repeat tacrolimus trough on ___ AM in clinic. 
Adjusted dose to 2 mg BID on ___.
 
[ ] Repeat CMV / EBV viral loads were drawn prior to discharge 
on ___. 
 
#CODE STATUS: full (confirmed)
#CONTACT: ___ (spouse: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Posaconazole Delayed Release Tablet 300 mg PO DAILY 
2. Acyclovir 400 mg PO Q12H 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 40 mg PO BID 

 
Discharge Medications:
1.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Sulfameth/Trimethoprim SS 1 TAB PO/NG DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
4.  Tacrolimus 2 mg PO QPM 
RX *tacrolimus 0.5 mg 4 capsule(s) by mouth twice daily Disp 
#*240 Capsule Refills:*0 
5.  Tacrolimus 2 mg PO QAM  
6.  Ursodiol 300 mg PO Q12H 
RX *ursodiol 300 mg 1 capsule(s) by mouth every 12 hours Disp 
#*60 Capsule Refills:*0 
7.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
8.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*0 
9.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
10.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
# DNMT3A, IDH2, AND FLT3 ACUTE MYELOID LEUKEMIA S/P MRD 
HEMATOPOIETIC STEM CELL TRANSPLANT
 
SECONDARY DIAGNOSES:
# NEUTROPENIC FEVER
# DIARRHEA
# HEMMORHOIDS 
# PULMONARY INFILTRATES

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- planned hematopoietic stem cell transplant for treatment of 
leukemia
- complications of your bone marrow transplant, including fever

What was done for you in the hospital:
- we completed the stem cell transplant with successful 
engraftment
- we monitored you for complications, including fever, and gave 
you antibiotics to treat this
- we monitored your progress on several new medications to 
ensure ongoing success of your stem cell transplant

What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your oncologist to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers starting tomorrow, ___
- Please monitor for worsening symptoms. If you have any 
concerns at all or develop any fever, please immediately call in 
to discuss

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___